### PR TITLE
add Erdos 274

### LINKED ISSUE #46: Formalise Erdos Problem 274

### PR DESCRIPTION
**Pull request by callesonne**
closes #46

### CODE REVIEW

File: FormalConjectures/ErdosProblems/274.lean [hunk 1]
```diff
@@ -0,0 +1,69 @@
...
+/--
+If `G` is an abelian group then can there exist an exact covering of `G` by more than one cosets of
+different sizes? (i.e. each element is contained in exactly one of the cosets.)
+-/
+@[category research open, AMS 20]
+theorem erdos_274 :
+    (∀ (G : Type*), [CommGroup G] →
+    ∃ (P : Partition (⊤ : Subgroup G)), 1 < P.parts.ncard ∧
+      (∀ A ∈ P.parts, ∃ (s : G) (H : Subgroup G), s • (H : Set G) = A) ∧
+      P.parts.Pairwise fun A B ↦ Nat.card A ≠ Nat.card B) ↔ answer(sorry) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/274.lean]: I think you're in trouble here since you're using `Nat.card` without any finitness assumptions on the subgroups.

File: FormalConjectures/ErdosProblems/274.lean [hunk 2]
```diff
@@ -0,0 +1,69 @@
...
+@[category research open, AMS 20]
+theorem erdos_274.variants.nonabelian :
+    (∀ (G : Type*), [Group G] → [Fintype G] →
+    ∃ (P : Partition (⊤ : Subgroup G)),
+      1 < P.parts.ncard ∧
+      (∀ A ∈ P.parts, ∃ᵉ (s : G) (H : Subgroup G), s • (H : Set G) = A) ∧
+      P.parts.Pairwise fun A B ↦ Nat.card A ≠ Nat.card B) ↔ answer(sorry) := by
+  sorry
+
+
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/274.lean:58]: I think it would also be nice to add the two (already proved) theorems mentioned in the Wiki page!

File: FormalConjectures/ErdosProblems/274.lean (hunk 1 above)
Comment (callesonne) [reply FormalConjectures/ErdosProblems/274.lean]: I think not because groups always have size \ge 1. So size is infinite iff Nat.card = 0. But maybe I should still change it because this is a "trick".

Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/274.lean]: I think here the issue is that the condition prevents you from having e.g two infinite subgroups of different cardinalities (since they both have Nat.card 0)

Comment (callesonne) [reply FormalConjectures/ErdosProblems/274.lean]: Ahh for some reason I thought this problem was not really concerned about larger cardinalities (esp. since they use the ambiguous term "size") but maybe it is actually.

Comment (callesonne) [reply FormalConjectures/ErdosProblems/274.lean]: Okay I just came back to this now. Do you think it's in the spirit of the problem to care about different sized infinite cardinalities? I'm mentioning this because if I choose to formulate this using cardinalities then we lose the `Subgroup.index` API, as I can't find a corresponding function valued in Cardinals.

Comment (callesonne) [reply FormalConjectures/ErdosProblems/274.lean]: From reading the wiki page it seems like the problem should be stated only in the case of finite indices.

Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/274.lean]: Sounds reasonable!

File: FormalConjectures/ErdosProblems/274.lean [hunk 3]
```diff
@@ -0,0 +1,69 @@
...
+[Er97c] Erdős, Paul, Some of my favorite problems and results.
+The mathematics of Paul Erd\H{o}s, I (1997), 47-67.
+-/
+@[category research open, AMS 20]
+theorem erdos_274.variants.nonabelian :
+    (∀ (G : Type*), [Group G] → [Fintype G] →
+    ∃ (P : Partition (⊤ : Subgroup G)),
+      1 < P.parts.ncard ∧
+      (∀ A ∈ P.parts, ∃ᵉ (s : G) (H : Subgroup G), s • (H : Set G) = A) ∧
+      P.parts.Pairwise fun A B ↦ Nat.card A ≠ Nat.card B) ↔ answer(sorry) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/274.lean]:
```suggestion
      P.parts.Pairwise fun A B ↦ #A ≠ #B) ↔ answer(sorry) := by
```
(for consistency with above, I think this should work?)

File: FormalConjectures/ErdosProblems/274.lean (hunk 2 above)
Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/274.lean:58]: Added a TODO for you @callesonne
